US05216007
A. Preparation of 1-[2-chloro-1,2-di-(2-chlorophenyl)ethyl] imidazole
A solution of 6 g (0.05 mole) of thionyl chloride dissolved in 20 ml of benzene is added dropwise to a solution containing 11 g (0.033 mole) of 1-[2-hydroxy-1,2-di-(2-chlorophenyl)ethyl] imidazole and 150 ml of benzene at room temperature. The reaction mixture is heated to reflux for 3 hours and is then made basic with 10% ammonium hydroxide solution. The organic product is extracted with ether and the combined ether extracts are washed with water, saturated sodium chloride solution, and dried over magnesium sulfate. Solvent is evaporated to give 11 g of a brown oil. This material is further purified by converting to its hydrochloride salt and back neutralized to the free base to give 8.2 g of the expected product.

reactant | thionyl chloride | 0.05 mole, 6 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-[2-hydroxy-1,2-di-(2-chlorophenyl)ethyl] imidazole | 0.033 mole, 11 g | OC(C(C1=C(C=CC=C1)Cl)N1C=NC=C1)C1=C(C=CC=C1)Cl | C17H14Cl2N2O
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-[2-chloro-1,2-di-(2-chlorophenyl)ethyl] imidazole | 11 g | ClC(C(C1=C(C=CC=C1)Cl)N1C=NC=C1)C1=C(C=CC=C1)Cl | C17H13Cl3N2
